US05300498
6-(4-Methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile
6-Fluoro-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile (1.62 g, 10.0 mmole) was dissolved in 20 mL of N-methylpyrrolidone. N-methylpiperazine (3.0 g, 30.0 mmole) was added and the reaction mixture was warmed for 2 hours at 80°. It was poured into H2O and then the product was filtered off and recrystallized from MeOH-H2H2O to give 1.41 g (58%) of analytically pure product, mp 255°(dec).

reactant | 6-Fluoro-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile | 10.0 mmole, 1.62 g | FC1=CC=C2C(=N1)NN=C2C#N | C7H3FN4
reactant | N-methylpiperazine | 30.0 mmole, 3.0 g | CN1CCNCC1 | C5H12N2
reactant | H2O | O | H2O
solvent | N-methylpyrrolidone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 6-(4-Methyl-1-piperazinyl)-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile | CN1CCN(CC1)C1=CC=C2C(=N1)NN=C2C#N | C12H14N6
